US07618960B2
Synthesis of 2,6-difluoro-N-methoxy-N-methylnicotinamide
N,O-dimethylhydroxylamine hydrochloride (14.7 g), WSC (28.9 g), and HOBt (20.4 g) were added to a solution of 2,6-difluoronicotinic acid (6 g) and diisopropylethylamine (10 mL) in DMF (100 mL), and the reaction solution was stirred at room temperature for two days. Water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: ethyl acetate) to obtain 7.01 g of the title compound.

reactant | N,O-dimethylhydroxylamine hydrochloride | 14.7 g | Cl.CNOC
reactant | WSC | 28.9 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 20.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2,6-difluoronicotinic acid | 6 g | FC1=C(C(=O)O)C=CC(=N1)F | C6H3F2NO2
reactant | diisopropylethylamine | 10 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2,6-difluoro-N-methoxy-N-methylnicotinamide | 7.01 g | FC1=C(C(=O)N(C)OC)C=CC(=N1)F | C8H8F2N2O2
